US05480858
A 100 ml three-necked flask was charged with 5.9 g (0.022 mol) of 6-bromo-5,8-dimethylthiochroman-4-one, and then, 30 ml of methylene chloride and 10 ml of methanol were added and dissolved. The entire reaction system was cooled to 0° C. in an ice salt bath, and 0.42 g.(0.011 mol) of sodium borohydride was added by small portions. Thereafter, the mixture was allowed to react for 2 hours while it was cooled as above. The reaction mixture was poured into 100 ml of water, and the mixture was extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate, and methylene chloride was distilled off under reduced pressure to give 6.0 g of 6-bromo-5,8-dimethyl-4-hydroxythiochroman as a solid. Then, 6.0 g of this 6-bromo-5,8-dimethyl-4-hydroxythiochroman was charged into a 100 ml eggplant-shaped flask, and 20 ml of ethanol was added to form a solution. Then, 10 drops of concentrated sulfuric acid was added, and the mixture was refluxed under heat for 1 hour. The reaction mixture was allowed to cool and poured into 100 ml of water, and the mixture was extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate, and methylene chloride was distilled off under reduced pressure to give 5.8 g of 6-bromo-5,8-dimethyl-4-ethoxythiochroman as an oily substance.

reactant | 6-bromo-5,8-dimethyl-4-hydroxythiochroman | 6.0 g | BrC=1C(=C2C(CCSC2=C(C1)C)O)C | C11H13BrOS
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 6-bromo-5,8-dimethyl-4-ethoxythiochroman | 5.8 g | BrC=1C(=C2C(CCSC2=C(C1)C)OCC)C | C13H17BrOS
